US07700641B2
Synthesis of 1′-[(6-methoxypyridin-3-yl)methyl]spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one
Following the procedure as described in EXAMPLE 10.21, and making non-critical variations using (6-methoxypyridin-3-yl)methyl 4-methylbenzenesulfonate to replace 2-bromomethyl-5-(trifloromethyl)furan, and spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one to replace 5,5-dimethyl-5,6-dihydrospiro[benzo[1,2-b:5,4-b′]difuran-3,3′-indol]-2′(1′H)-one, the title compound was obtained (45%): 1H NMR (300 MHz, CDCl3) δ 8.19 (d, 1H), 7.59 (dd, 1H), 7.26-7.12 (m, 2H), 7.02 (t, 1H), 6.83 (d, 1H), 6.74 (d, 1H), 6.50 (s, 1H), 6.07 (s, 1H), 5.89-5.82 (m, 2H), 5.00-4.90 (m, 2H), 4.76 (d, 1H), 4.65 (d, 1H), 3.93 (s, 3H); 13C NMR (75 MHz, CDCl3) δ 177.6, 163.7, 155.9, 149.0, 145.3, 142.4, 141.6, 138.9, 132.2, 129.0, 124.4, 124.1, 123.7, 119.2, 111.7, 109.0, 102.9, 101.5, 93.7, 80.4, 58.2, 53.9, 41.1; MS (ES+) m/z 403.2 (M+1).

reactant | (6-methoxypyridin-3-yl)methyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OCC=1C=NC(=CC1)OC | C14H15NO4S
reactant | 2-bromomethyl-5-(trifloromethyl)furan | BrCC=1OC(=CC1)C(F)(F)F | C6H4BrF3O
reactant | spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | N1C(C2(C3=CC=CC=C13)COC=1C2=CC2=C(OCO2)C1)=O | C16H11NO4
reactant | 5,5-dimethyl-5,6-dihydrospiro[benzo[1,2-b:5,4-b′]difuran-3,3′-indol]-2′(1′H)-one | CC1(C=2C(OC1)=CC=1OCC3(C(NC4=CC=CC=C34)=O)C1C2)C | C19H17NO3
product | 1′-[(6-methoxypyridin-3-yl)methyl]spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | COC1=CC=C(C=N1)CN1C(C2(C3=CC=CC=C13)COC=1C2=CC2=C(OCO2)C1)=O | C23H18N2O5
